US07501395B2
To 2-methyl-6-benzoxazole carboxylic acid (1.060 g) in toluene (111 ml) solution, triethylamine (0.867 ml) and N,N-dimethylformamide (22 ml) were added. To this mixture, diphenyl phosphoryl azide (1.65 ml) was added and stirred at 65° C. for an hour. The reaction mixture was cooled to room temperature, added with 4-amino-1,5-naphthyridine (0.878 g), and the resulting mixture was stirred at 65° C. for another 72 hours. The cooled mixture was diluted with ethyl acetate and washed with a saturated aqueous sodium carbonate. The organic layer was dried with magnesium sulfate and the solvent was distilled away to obtain a crude product of 1-(2-methylbenzoxazole-6-yl)-3-[1,5]naphthyridine-4-yl urea for 0.797 g. The crude product was dissolved in ethyl acetate at 60° C., added with 4N-hydrogen chloride-ethyl acetate solution and stirred on ice. The precipitated hydrochloride was filtrated, air-dried at 60° C. to obtain 840 mg of the title compound (CAS No. 249889-64-3). The structure of the obtained title compound and results from NMR measurement were as follows.

reactant | 2-methyl-6-benzoxazole carboxylic acid | 1.060 g | CC=1OC2=C(N1)C=CC(=C2)C(=O)O | C9H7NO3
reactant | triethylamine | 0.867 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 1.65 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-amino-1,5-naphthyridine | 0.878 g | NC1=CC=NC2=CC=CN=C12 | C8H7N3
solvent | toluene | 111 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | 1-(2-methylbenzoxazole-6-yl)-3-[1,5]naphthyridine-4-yl urea | CC=1OC2=C(N1)C=CC(=C2)NC(=O)NC2=CC=NC1=CC=CN=C21 | C17H13N5O2
